US07030118B2
H) (±)-3-Benzyl-2-[1-(3-tert-butoxycarbonylamino-propylamino)-propyl]-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid methyl ester
(3-Amino-propyl)-carbamic acid tert-butyl ester (Fluka, 0.054 ml, 0.31 mmol) was added to a solution of 3-benzyl-2-(1-methanesulfonyloxy-propyl)-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxyic acid methyl ester (0.086 g, 0.21 mmol) and triethylamine (0.086 mL, 0.616 mmol) in DMF (1.0 mL) and the reaction mixture was heated to 75° C. for 4 h. The reaction mixture was quenched with saturated NaHCO3 (2 mL) and extracted with EtOAc (3×10 mL). The combined organic extracts were washed with 10% LiCl (4×10 mL), dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluting with 8/1 to 1/1 hexane/EtOAc to afford the title compound (0.013 g, 14%) as a solid: 1H NMR (CDCl3) δ 6.98–7.26 (m, 8H), 5.75 (m, 1H), 4.95 (m, 2H), 3.86 (s, 3H), 3.65 (m, 1H), 3.00 (m, 2H), 2.45 (m, 1H), 2.00 (m, 1H), 1.50–1.75 (m, 4H) 1.36 (s, 9H), 0.88 (m, 3H); MS (ESI+) 498 (M++H); HRMS (ESI+) calculated: 498.2716 (M++H), found: 498.2720 (M++H).

reactant | (3-Amino-propyl)-carbamic acid tert-butyl ester | 0.31 mmol, 0.054 ml | C(C)(C)(C)OC(NCCCN)=O | C8H18N2O2
reactant | 3-benzyl-2-(1-methanesulfonyloxy-propyl)-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxyic acid methyl ester | 0.21 mmol, 0.086 g | COC(=O)C=1C=CN2N=C(N(C(C21)=O)CC2=CC=CC=C2)C(CC)OS(=O)(=O)C | C19H21N3O6S
reactant | triethylamine | 0.616 mmol, 0.086 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | (±)-3-Benzyl-2-[1-(3-tert-butoxycarbonylamino-propylamino)-propyl]-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid methyl ester | 0.013 g, 14% | COC(=O)C=1C=CN2N=C(N(C(C21)=O)CC2=CC=CC=C2)C(CC)NCCCNC(=O)OC(C)(C)C | C26H35N5O5
